US07157464B2
Synthesis of 5-ethyl-3-trifluoromethyl-1H-pyrazole
To a solution of 1,1,1-Trifluoro-hexane-2,4-dione (1 g, 5.95 mmol) in absolute ethanol (10 mL) was added NH2NH2.xH2O drop-wise at 0° C. The reaction mixture warmed to the room temperature during 1 hour and refluxed overnight. Ethanol was then evaporated, residue dissolved in ethyl acetate (20 mL), washed consecutively with saturated brine solution and water, dried with Na2SO4 and concentrated to give the title compound as colorless oil.

reactant | 1,1,1-Trifluoro-hexane-2,4-dione | 5.95 mmol, 1 g | FC(C(CC(CC)=O)=O)(F)F | C6H7F3O2
reactant | NH2NH2 | NN | H4N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-ethyl-3-trifluoromethyl-1H-pyrazole | C(C)C1=CC(=NN1)C(F)(F)F | C6H7F3N2
